US08431563B2
A 500 ml, round-bottomed flask was charged with 1-Boc-piperazine (18.55 g, 100 mmol, Sigma-Aldrich, St. Louis, Mo.), triethylamine (18.05 mL, 129 mmol), and 200 mL of CH2Cl2. To this was added benzenesulfonyl chloride (16.05 mL, 124 mmol, Sigma-Aldrich, St. Louis, Mo.). After 15 min, the mixture was diluted with water (150 mL) and the layers were separated. The organics were dried (MgSO4) and concentrated to give a white solid. This solid was dissolved in EtOAc (300 mL) and 150 mL of 4N HCl in dioxane. After 3 h at 65° C., the white precipitate was filtered to give 1-(phenylsulfonyl)piperazine hydrochloride (21.0 g) as a white solid.

reactant | 1-Boc-piperazine | 100 mmol, 18.55 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | triethylamine | 129 mmol, 18.05 mL | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | 124 mmol, 16.05 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | HCl | 4N, 150 mL | Cl | ClH
solvent | water | 150 mL | O | H2O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-(phenylsulfonyl)piperazine hydrochloride | 21.0 g | Cl.C1(=CC=CC=C1)S(=O)(=O)N1CCNCC1 | InChI=1S/C10H14N2O2S.ClH/c13-15(14,10-4-2-1-3-5-10)12-8-6-11-7-9-12;/h1-5,11H,6-9H2;1H
